US08445480B2
Step B. 3-Isopropenyl-4-methoxy-5-nitrobenzonitrile
To a mixture of 3-bromo-4-methoxy-5-nitrobenzonitrile (6.26 g, 24.35 mmol) in dimethoxyethane (61 ml) was added water (16 ml), isopropenyl boronic acid (6.28 g, 73.1 mmol), potassium carbonate (10.10 g, 73.1 mmol), and tetrakis(triphenylphosphine) palladium(0) (0.281 g, 0.244 mmol). The resulting mixture was heated to reflux and stirred at this temperature overnight under nitrogen. The reaction mixture was then concentrated, diluted with water, and extracted with ethyl acetate (3×). The combined organics were washed with brine, dried over sodium sulfate, filtered, and concentrated in vacuo. The residue was purified by flash column chromatography using a Horizon Biotage, 65i Si column, eluting with 1 column volume of hexanes, followed by a linear gradient of ethyl acetate in hexanes from 0% to 100% over 10 column volumes to afford the title compound as a red oil.

reactant | 3-bromo-4-methoxy-5-nitrobenzonitrile | 24.35 mmol, 6.26 g | BrC=1C=C(C#N)C=C(C1OC)[N+](=O)[O-] | C8H5BrN2O3
reactant | water | 16 ml | O | H2O
reactant | isopropenyl boronic acid | 73.1 mmol, 6.28 g | C(=C)(C)B(O)O | C3H7BO2
reactant | potassium carbonate | 73.1 mmol, 10.10 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethoxyethane | 61 ml | C(OC)COC | C4H10O2
catalyst | tetrakis(triphenylphosphine) palladium(0) | 0.244 mmol, 0.281 g | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | 3-Isopropenyl-4-methoxy-5-nitrobenzonitrile | C(=C)(C)C=1C=C(C#N)C=C(C1OC)[N+](=O)[O-] | C11H10N2O3
